US08138176B2
f1) 3-(4-Methoxyphenyl)-3-methyl-5-[1-nitrometh-(Z)-ylidene]morpholine
A mixture of 100 mmol of [5-(4-methoxyphenyl)-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-N-nitroso-N-methylamine, 200 ml of N,N-dimethylformamide, 50 ml of nitromethane and 115 mmol of potassium tert-butoxide is stirred at room temperature for 15 minutes. It is quenched by adding 20 ml of glacial acetic acid and diluted with dichloromethane and water. The organic phase is separated off, washed with water, dried with sodium sulphate and evaporated. The title compound is identified from the residue on the basis of the Rf by flash chromatography (SiO2 60 F).

reactant | [5-(4-methoxyphenyl)-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-N-nitroso-N-methylamine | 100 mmol | COC1=CC=C(C=C1)C1(N=C(COC1)N(C)N=O)C | C13H17N3O3
reactant | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
reactant | potassium tert-butoxide | 115 mmol | CC(C)([O-])C.[K+]
reactant | nitromethane | 50 ml | [N+](=O)([O-])C | CH3NO2
product | 3-(4-Methoxyphenyl)-3-methyl-5-[1-nitrometh-(Z)-ylidene]morpholine | COC1=CC=C(C=C1)C1(N\C(\COC1)=C/[N+](=O)[O-])C | C13H16N2O4
